US06034239
Ethyl 3-(2,3-Dihydrobenzofuran-5-yl)propionate
5% Palladium-carbon (1 g, containing 50% water) was added to an ethanol (150 ml) solution of ethyl (E)-3-(2.3-dihydrobenzofuran-5-yl)-2-propenoate (14.7 g, 66.7 mmols), and the mixture was stirred in a hydrogen atmosphere at room temperature for 2 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain 14.6 g (yield: 99%) of the target compound. This was oily.

reactant | ethyl (E)-3-(2.3-dihydrobenzofuran-5-yl)-2-propenoate | 66.7 mmols, 14.7 g | O1CCC2=C1C=CC(=C2)/C=C/C(=O)OCC | C13H14O3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 1 g | [C].[Pd]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 3-(2,3-Dihydrobenzofuran-5-yl)propionate | 14.6 g, yield: 99% | O1CCC2=C1C=CC(=C2)CCC(=O)OCC | C13H16O3
